US08729102B2
B) cyclopropylmethyl [2-bromo-4-(cyclopropylmethoxy)phenyl]acetate
A solution of (bromomethyl)cyclopropane (10.52 g), (2-bromo-4-hydroxyphenyl)acetic acid (6.0 g) and potassium carbonate (7.18 g) in DMF (200 mL) was stirred at 80° C. for 8 hr. The reaction mixture was allowed to cool to room temperature, and the solvent was evaporated under reduced pressure. The residue was diluted with diethyl ether and water, and the organic layer was separated. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (7.89 g).

reactant | (bromomethyl)cyclopropane | 10.52 g | BrCC1CC1 | C4H7Br
reactant | (2-bromo-4-hydroxyphenyl)acetic acid | 6.0 g | BrC1=C(C=CC(=C1)O)CC(=O)O | C8H7BrO3
reactant | potassium carbonate | 7.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | cyclopropylmethyl [2-bromo-4-(cyclopropylmethoxy)phenyl]acetate | 7.89 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(=O)OCC1CC1 | C16H19BrO3
